US06605629B1
To a mixture of 5-(4-fluoro-1-naphthyl)-2-(2-methyl-1-imidazolyl)-4-oxazolebutanol (180 mg), 2-methylphenol (108 mg), tributylphosphine (202 mg) and tetrahydrofuran (5 ml) was added 1,1′-(azodicarbonyl)dipiperidine (252 mg) at room temperature, and the resulting mixture was stirred for 1 hour. After the reaction mixture was concentrated, the residue was subjected to silica gel column chromatography, and 5-(4-fluoro-1-naphthyl)-2-(2-methyl-1-imidazolyl)-4-[4-(2-methylphenoxy)butyl]oxazole was obtained as an oil (180 mg, 80%) from an ethyl acetate-hexane (1:1, v/v)-eluted fraction.

reactant | 5-(4-fluoro-1-naphthyl)-2-(2-methyl-1-imidazolyl)-4-oxazolebutanol | 180 mg | FC1=CC=C(C2=CC=CC=C12)C1=C(N=C(O1)N1C(=NC=C1)C)CCCCO | C21H20FN3O2
reactant | 2-methylphenol | 108 mg | CC1=C(C=CC=C1)O | C7H8O
reactant | tributylphosphine | 202 mg | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 252 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 5-(4-fluoro-1-naphthyl)-2-(2-methyl-1-imidazolyl)-4-[4-(2-methylphenoxy)butyl]oxazole | FC1=CC=C(C2=CC=CC=C12)C1=C(N=C(O1)N1C(=NC=C1)C)CCCCOC1=C(C=CC=C1)C | C28H26FN3O2
